US08022062B2
7-Chloro-6-(6-chloropyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-bromomethyl-6-chloropyridine hydrochloride to give, after deprotection by a method similar to the General Procedure 1-4, the title compound as an off-white solid. MS (APCI+) m/z: 339 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-bromomethyl-6-chloropyridine hydrochloride | Cl.BrCC1=NC(=CC=C1)Cl
product | 7-Chloro-6-(6-chloropyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NC(=CC=C1)Cl | InChI=1S/C16H16Cl2N2S.ClH/c17-14-5-4-11-6-8-19-9-7-13(11)16(14)21-10-12-2-1-3-15(18)20-12;/h1-5,19H,6-10H2;1H
